US08349880B2
Step Q (3): Iodomethane (1.43 mL, 22.9 mmol) was added to a solution of 1-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea (5.48 g, 21.8 mmol) in absolute ethanol (200 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the reaction was chilled at −20° C. for 2 h. The precipitate was collected by vacuum filtration. The solid was dried under high vacuum to afford methyl 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide (8.40 g, 21.4 mmol, 98% yield) as an off-white solid. LC-MS (M+H)+ 266.1. 1H NMR (500 MHz, DMSO-d6) δ ppm 8.91 (d, J=2.4 Hz, 1 H), 7.91 (t, J=8.5 Hz, 1 H), 7.64 (dd, J=11.7, 2.0 Hz, 1 H), 7.35 (d, J=7.3 Hz, 1 H), 2.70 (s, 3 H), 2.38 (s, 3 H).

reactant | Iodomethane | 22.9 mmol, 1.43 mL | IC | CH3I
reactant | 1-(3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenyl)thiourea | 21.8 mmol, 5.48 g | FC=1C=C(C=CC1N1N=C(N=C1)C)NC(=S)N | C10H10FN5S
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | methyl 3-fluoro-4-(3-methyl-1H-1,2,4-triazol-1-yl)phenylcarbamimidothioate, hydroiodide | 21.4 mmol, 8.40 g, 98% yield | I.FC=1C=C(C=CC1N1N=C(N=C1)C)NC(=N)SC | InChI=1S/C11H12FN5S.HI/c1-7-14-6-17(16-7)10-4-3-8(5-9(10)12)15-11(13)18-2;/h3-6H,1-2H3,(H2,13,15);1H
